US07125901B2
Benzyl 4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-ylcarbamate (2.7 g) prepared in a similar manner according to Step 4 of Production Example 24 and 6N hydrochloric acid (50 ml) were combined. The reaction mixture was refluxed for 3 hours. After cooled to room temperature, the precipitate was filtered in vacuo. The solid was washed with water and acetonitrile to give 4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-amine (1.34 g) as a yellow solid.

reactant | Benzyl 4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-ylcarbamate | 2.7 g | [N+](=O)([O-])C1=CC=C(C=C1)/C=C/C=1N=C(SC1)NC(OCC1=CC=CC=C1)=O | C19H15N3O4S
solvent | hydrochloric acid | 6N, 50 ml | Cl | ClH
product | 4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-amine | 1.34 g | [N+](=O)([O-])C1=CC=C(C=C1)/C=C/C=1N=C(SC1)N | C11H9N3O2S
